US07932262B2
Step 4. Preparation of 4-(8-bromo-6-(trifluoromethyl)quinazolin-2-ylamino)benzenesulfonamide
To a 0.30 M solution of 8-bromo-2-chloro-6-(trifluoromethyl)quinazoline in 2-propanol was added sulfanilamide (1.0 eq). The reaction was stirred at 110° C. for 14 h. The hydrochloride was collected by vacuum filtration and then stirred in aqueous sodium bicarbonate. The solid was collected by vacuum filtration and rinsed with water. The light yellow solid was dried in a desiccator to give 343 mg of the desired product. ES/MS m/z 447, 449 (MH+).

reactant | 8-bromo-2-chloro-6-(trifluoromethyl)quinazoline | BrC=1C=C(C=C2C=NC(=NC12)Cl)C(F)(F)F | C9H3BrClF3N2
reactant | sulfanilamide | 1.0 eq | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
solvent | 2-propanol | CC(C)O | C3H8O
product | 4-(8-bromo-6-(trifluoromethyl)quinazolin-2-ylamino)benzenesulfonamide | 343 mg | BrC=1C=C(C=C2C=NC(=NC12)NC1=CC=C(C=C1)S(=O)(=O)N)C(F)(F)F | C15H10BrF3N4O2S
